US04563459
0.15 g of p-toluenesulphonic acid is added to an emulsion of 34.9 g of crude diethyl 2,4-dichloro-5-fluoro-benzoyl-malonate in 50 ml of water. The mixture is heated at the boiling point for 3 hours, while stirring well, the cooled emulsion is extracted several times with methylene chloride, the combined methylene chloride solutions are washed once with saturated sodium chloride solution and dried with sodium sulphate and the solvent is distilled off in vacuo. Fractionation of the residue under a fine vacuum gives 21.8 g of ethyl 2,4-dichloro-5-fluoro-benzoylacetate of boiling point 127°-142° C./0.09 mbar.

reactant | p-toluenesulphonic acid | 0.15 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | diethyl 2,4-dichloro-5-fluoro-benzoyl-malonate | 34.9 g | ClC1=C(C(=O)C(C(=O)OCC)C(=O)OCC)C=C(C(=C1)Cl)F | C14H13Cl2FO5
solvent | water | 50 ml | O | H2O
product | ethyl 2,4-dichloro-5-fluoro-benzoylacetate | 21.8 g | ClC1=C(C(=O)CC(=O)OCC)C=C(C(=C1)Cl)F | C11H9Cl2FO3
